US05270324
Step 1: 1-(3-(2-(7-chloro-2-quinolinyl)ethenyl)phenyl)ethanone
To 3-(2-(7-chloro-2-quinolinyl)ethenyl)benzaldehyde, MeMgBr was added (in THF at 0° C.) to give an ethanol derivative, which was oxidized to the title compound as in Example 15, Step 11. 1H NMR (CD3COCD3): δ 2.68 (3H, s), 7.55-7.68 (3H, m), 7.89-8.05 (6H, m), 8.36 (2H, m).

reactant | 3-(2-(7-chloro-2-quinolinyl)ethenyl)benzaldehyde | ClC1=CC=C2C=CC(=NC2=C1)C=CC=1C=C(C=O)C=CC1 | C18H12ClNO
reactant | MeMgBr | C[Mg+].[Br-]
reactant | ethanol | C(C)O | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | 1-(3-(2-(7-chloro-2-quinolinyl)ethenyl)phenyl)ethanone | ClC1=CC=C2C=CC(=NC2=C1)C=CC=1C=C(C=CC1)C(C)=O | C19H14ClNO
